US09302989B2
N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isoindoline-2-carboxamide
500 mg (4-Isocyanatophenyl)boronic acid pinacolester (1.979 mmol) and 365 mg isoindoline (2.97 mmol) were dissolved in 10 ml dichloromethane and the resultant mixture was stirred over night at room temperature. After adding water, the mixture was extracted several times with dichloromethane, the combined organic phases were washed with dried over magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. Column chromatography of the residue with dichloromethane resulted in the title compound.

reactant | (4-Isocyanatophenyl)boronic acid | 500 mg | N(=C=O)C1=CC=C(C=C1)B(O)O | C7H6BNO3
reactant | isoindoline | 2.97 mmol, 365 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isoindoline-2-carboxamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)C | C21H25BN2O3
